US07504397B2
(iii) 4-(5-bromo-furan-2-yl)-2,6-dimorpholino-pyrimidine (65)
To a solution of 4-(5-Bromo-furan-2-yl)-2,6-dichloro-pyrimidine (1.93 g, 6.51 mmol) in DMA (35 ml) was added morpholine (2.83 g, 32.54 mmol) and N,N-diisopropylethylamine (4.21 g, 32.54 mmol). The reaction mixture was heated to 70° C. for 7 hours whereupon it was cooled and diluted with EtOAc (100 ml) and then washed with water (2×50 ml), dried (MgSO4), filtered and concentrated in vacuo to give a dark oil. The crude residue was purified by flash chromatography (SiO2) (1:3—EtOAc:Hexanes) to give the title compound as a white crystalline solid (0.95 g, 37%). m/z (LC-MSW, ESP):396 [M+H]+, R/T=4.38 mins.

reactant | 4-(5-Bromo-furan-2-yl)-2,6-dichloro-pyrimidine | 6.51 mmol, 1.93 g | BrC1=CC=C(O1)C1=NC(=NC(=C1)Cl)Cl | C8H3BrCl2N2O
reactant | morpholine | 32.54 mmol, 2.83 g | N1CCOCC1 | C4H9NO
reactant | N,N-diisopropylethylamine | 32.54 mmol, 4.21 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | DMA | 35 ml | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
product | 4-(5-bromo-furan-2-yl)-2,6-dimorpholino-pyrimidine | 0.95 g, 37% | BrC1=CC=C(O1)C1=NC(=NC(=C1)N1CCOCC1)N1CCOCC1 | C16H19BrN4O3
